US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-6,7-dimethyl-quinazoline
Utilizing a procedure analogous to that described in Example 24, this product was prepared in 16% yield from 6-chloro-indoline and 4-chloro-6,7-dimethyl-quinazoline. (M.P. 199° C.; LC-MS: 310 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4-chloro-6,7-dimethyl-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)C)C | C10H9ClN2
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-6,7-dimethyl-quinazoline | 16% yield | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)C)C | C18H16ClN3
